US06372777B1
Preparation of 2-Methyl-5-phenyl-l-m-tolyl-1H-pyrrole-3-carboxylic acid ethyl ester
m-Toluidine (5 mmol, 0.5 g), 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The resulting oil was resuspended in methylene chloride, then washed with water, 5% sodium bicarbonate, and brine. The organic layer was dried over NaSO4, then the solids were separated and the solvents evaporated under vacuum. The crude product was recrystallized from ethanol to yield the named product (m.p. 103° C.-104.5° C.).

reactant | m-Toluidine | 5 mmol, 0.5 g | NC1=CC(=CC=C1)C | C7H9N
reactant | 3-oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(C(C)=O)CC(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Methyl-5-phenyl-l-m-tolyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C1=CC=CC=C1)C=1C=C(C=CC1)C)C | C21H21NO2
